US06054441
Preparation of Palmitoyl-2'-deoxyguanosine
To a 250 mL flask was added 2'-deoxyguanosine monohydrate (5.0 g, 17.5 mmol), triethylamine (3.13 ml, 22.4 mmol) and N,N-dimethyl-4-aminopyridine (0.046 g, 0.37 mmol). N,N-dimethylformamide (130 mL) was added via cannula with stirring and the flask was purged with argon gas. The slurry was allowed to cool 10 minutes in an ice/NaCl bath and palmitoyl chloride (6.3 mL, 20.6 mmol) was added dropwise. The mixture was allowed to stir while it slowly warmed to 25 degrees C. After 72 h, the mixture was poured with stirring into 400 mL of a 1:1 mixture of water and saturated aqueous sodium bicarbonate solution, which mixture had been warmed to about 60 degrees C. The resulting white solid was isolated by suction filtration, washed with water, and dried.

reactant | 2'-deoxyguanosine monohydrate | 17.5 mmol, 5.0 g | O.[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12
reactant | triethylamine | 22.4 mmol, 3.13 ml | C(C)N(CC)CC | C6H15N
reactant | palmitoyl chloride | 20.6 mmol, 6.3 mL | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | N,N-dimethyl-4-aminopyridine | 0.37 mmol, 0.046 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 130 mL | CN(C=O)C | C3H7NO
product | Palmitoyl-2'-deoxyguanosine | C(CCCCCCCCCCCCCCC)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C26H43N5O5
